US07199124B2
N-[5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]-N′-phenylurea
To a solution of [5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine (0.43 g, 1.2 mmol) in N,N-dimethylacetamide (10 mL) was added phenyl isocyanate (0.19 mL, 1.8 mmol) and the mixture was stirred at 80° C. for 1 hr. Into the reaction mixture was poured aqueous sodium hydrogen carbonate solution and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:1). The obtained crude crystals were recrystallized from ethyl acetate to give the title compound (0.23 g, yield 39%).

reactant | [5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]amine | 1.2 mmol, 0.43 g | C1(CCCC1)NC1=NC=CC(=C1)C1=C(N=C(S1)N)C1=CC(=CC=C1)C | C20H22N4S
reactant | phenyl isocyanate | 1.8 mmol, 0.19 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-(2-cyclopentylamino-4-pyridyl)-4-(3-methylphenyl)-1,3-thiazol-2-yl]-N′-phenylurea | 0.23 g, yield 39% | C1(CCCC1)NC1=NC=CC(=C1)C1=C(N=C(S1)NC(=O)NC1=CC=CC=C1)C1=CC(=CC=C1)C | C27H27N5OS
